US04661591
(c) 4,5-Dihydrodithieno[3,4-b:3',4'-e]azepine-5,9-dione (I)
3.0 g of Pd/C (10%) and 15.0 g (183 millimoles) of finely powedered sodium acetate were added to 19.2 g (63.2 millimoles) of 1,3-dichloro-4,5-dihydrodithieno[3,4-b:3',4'-e]azepine-5,9-dione in 600 ml of 1-methylpyrrolid-2-one, and hydrogenation was carried out in a 2.5 l Rollhofer apparatus for 5 hours under a hydrogen pressure of 200 bar and at 80° C. Thereafter, the mixture was filtered under suction, the residue was washed with pyrrolidone and then H2O, the filtrate was poured onto 5 l of ice water, acidified with concentrated HCl and stirred for a further hour, after which the solid was filtered off under suction with thorough washing with H2O, and the crude product was dried. The yield was 12.6 g (85%) and the melting point 267°-270° C.

reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | 1,3-dichloro-4,5-dihydrodithieno[3,4-b:3',4'-e]azepine-5,9-dione | 63.2 millimoles, 19.2 g | ClC=1SC(=C2NC(C=3C(C(C21)=O)=CSC3)=O)Cl | C10H3Cl2NO2S2
solvent | 1-methylpyrrolid-2-one | 600 ml | CN1C(CCC1)=O | C5H9NO
catalyst | Pd/C | 3.0 g | [Pd] | Pd
product | 4,5-Dihydrodithieno[3,4-b:3',4'-e]azepine-5,9-dione | C=1SC=C2NC(C=3C(C(C21)=O)=CSC3)=O | C10H5NO2S2
